US07030139B2
35A: 6-[(cyclopropylmethyl)amino]-5-nitronicotinic Acid.
Cyclopropanemethylamine (1.70 g, 23.90 mmol) was added to a solution of 6-chloro-5-nitronicotinic acid (1.12 g, 5.53 mmol) in MeOH (25 mL) at room temperature. The reaction mixture was stirred at room temperature for 2 h and concentrated in vacuo. The residue was dissolved in H2O (20 mL), and the solution was acidified by adding 3N HCl until pH=3. The mixture was extracted with EtOAc and CH2Cl2 (2×100 mL) and the combined extracts were washed with brine, dried over Na2SO4, concentrated in vacuo to give a bright yellow solid (1.30 g) which was used in the following reaction without further purification.

reactant | Cyclopropanemethylamine | 23.90 mmol, 1.70 g | C1(CC1)CN | C4H9N
reactant | 6-chloro-5-nitronicotinic acid | 5.53 mmol, 1.12 g | ClC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H3ClN2O4
solvent | MeOH | 25 mL | CO | CH4O
product | 6-[(cyclopropylmethyl)amino]-5-nitronicotinic Acid | 1.30 g | C1(CC1)CNC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C10H11N3O4
